US07314849B2
A solution of 1,5-difluoro-2-methoxy-3-methylbenzene (0.65 g, 4.1 mmol) in THF (1 mL) was added to LDA (4.3 mmol) in THF (10 mL) at −55° C. and the solution stirred for 45 minutes. Solid iodine (1.15 g, 4.5 mmol) was added and the solution allowed to warm to ambient temperature. The solution was diluted with ethyl acetate and washed with sodium bicarbonate (saturated solution 15 mL) and sodium thiosulfate (saturated solution, 15 mL), dried (sodium sulfate) and concentrated. The residue was purified by chromatography (hexanes) to give 1,3-difluoro-2-iodo-4-methoxy-5-methylbenzene: 1H NMR (300 MHz, CDCl3): δ 6.72 (dd, 1H), 3.84 (d, 3H,), 2.26 (s, 3H).

reactant | 1,5-difluoro-2-methoxy-3-methylbenzene | 4.1 mmol, 0.65 g | FC1=C(C(=CC(=C1)F)C)OC | C8H8F2O
reactant | LDA | 4.3 mmol | [Li+].CC(C)[N-]C(C)C
reactant | iodine | 4.5 mmol, 1.15 g | II | I2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,3-difluoro-2-iodo-4-methoxy-5-methylbenzene | FC1=C(C(=C(C(=C1)C)OC)F)I | C8H7F2IO
